US06797823B1
N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea (70 mg), potassium carbonate (30 mg), and pentamethylene bromide (80 μl) were dissolved in N,N-dimethylformamide (5 ml), and the solution was stirred at room temperature for 3 hr. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 43 mg (yield 46%) of N-(4-{[7-(4-bromobutoxy)-6-methoxy-4-quinazolinyl]-oxy}-2-chlorophenyl)-N′-propylurea as an intermediate. The intermediate (43 mg), potassium carbonate (30 mg), and morpholine (40 μl) were dissolved in N,N-dimethylformamide (4 ml), and the solution was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol to give 23 mg (yield 53%) of the title compound.

reactant | N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea | 70 mg | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C19H19ClN4O4
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pentamethylene bromide | 80 μl | C(CCCCBr)Br | C5H10Br2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(4-{[7-(4-bromobutoxy)-6-methoxy-4-quinazolinyl]-oxy}-2-chlorophenyl)-N′-propylurea | 43 mg, yield 46% | BrCCCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl)OC | C23H26BrClN4O4
